US06617442B1
a. 3′-t-Butyldiphenylsilyl-thymidine (1)
5′-O-Dimethoxytritylthymidine is silylated with 1 equivalent of t-butyldiphenylsilyl chloride (TBDPSCl) and 2 equivalents of imidazole in DMF solvent at room temperature. The 5′-protecting group is removed by treating with 3% dichloracetic acid in CH2Cl2.

reactant | 5′-O-Dimethoxytritylthymidine | CC1=CN(C(=O)NC1=O)C2CC(C(O2)COC(C3=CC=CC=C3)(C4=CC=C(C=C4)OC)C5=CC=C(C=C5)OC)O | C31H32N2O7
reactant | t-butyldiphenylsilyl chloride | 1 equivalent | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 2 equivalents | N1C=NC=C1 | C3H4N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3′-t-Butyldiphenylsilyl-thymidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)O | C26H32N2O5Si
